US07001886B2
Preparation of Diphenhydramine Free Base
A 500 ml round bottom flask equipped with a stirrer, thermometer and heating mantle was set up. The flask was charged with 176 g of a 10% aqueous sodium hydroxide solution. Thereafter, 118 g (0.40 mole) diphenhydramine hydrochloride was slowly added, with stirring, to the flask at room temperature. The reaction mixture was then stirred for 30 minutes at 45–50° C. The reaction mixture was allowed to settle for 15 minutes and the organic layer was separated (the pH of the layer was 12.8). The organic layer consisting of the diphenhydramine free base was washed by mixing it with 100 ml of purified water and maintaining a temperature of 70–75° C. for one hour, while stirring. Stirring was then discontinued and the phases were allowed to split over a period of one hour. The lower organic layer consisting of the diphenhydramine free base was then separated. The yield of the free base was found to be 104 g (about 99% of theory) and it had a moisture content of 2.18% as determined by Karl. Fischer (K. F.) analysis.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | diphenhydramine hydrochloride | 0.40 mole, 118 g | CN(C)CCOC(C=1C=CC=CC1)C=2C=CC=CC2.Cl
product | Diphenhydramine | CN(C)CCOC(C=1C=CC=CC1)C=2C=CC=CC2 | C17H21NO
